US07834182B2
N-methyl-N-(1-methylpiperidinyl)-4-[4-(piperidin-1-yl)piperidin-1-yl]benzamide
At room temperature, 1-methyl(4-methylamino)piperidine (0.056 ml, 0.38 mmols), O-(7-azabenzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (121 mg, 0.32 mmols) and diisopropylethylamine (0.17 ml, 0.96 mmols) were added to a dimethylformamide solution (1.0 ml) of 4-[(4-piperidin-1-yl)piperidin-1-yl]benzoic acid hydrochloride (103 mg, 0.32 mmols) obtained in Reference Example 1, and s in a nitrogen atmosphere at room temperature for 14 hours. The reaction solution was extracted with ethyl acetate, the organic layer was washed with water, saturated sodium bicarbonate solution and saturated saline solution in the order, dried with anhydrous magnesium sulfate, and then concentrated. The residue was purified through preparative thin-layer chromatography (chloroform/methanol/aqueous ammonia=10/1/0.1) to obtain the entitled compound (56 mg, 44%).

reactant | 7-azabenzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.32 mmols, 121 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.96 mmols, 0.17 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[(4-piperidin-1-yl)piperidin-1-yl]benzoic acid hydrochloride | 0.32 mmols, 103 mg | Cl.N1(CCCCC1)C1CCN(CC1)C1=CC=C(C(=O)O)C=C1
reactant | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(1-methylpiperidinyl)-4-[4-(piperidin-1-yl)piperidin-1-yl]benzamide | 56 mg, 44% | CN(C(C1=CC=C(C=C1)N1CCC(CC1)N1CCCCC1)=O)C1N(CCCC1)C | C24H38N4O
